US06703392B2
2-(1-Benzyl-3,4-dihydro-1H-isoquinolin-2-yl)-N-(2-chloro-benzyl)-acetamide:
prepared by reaction of 1-Benzyl-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-chlorobenzylamine

reactant | 1-Benzyl-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)C1NCCC2=CC=CC=C12 | C16H17N
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-chlorobenzylamine | ClC1=C(CN)C=CC=C1 | C7H8ClN
product | 2-(1-Benzyl-3,4-dihydro-1H-isoquinolin-2-yl)-N-(2-chloro-benzyl)-acetamide | C(C1=CC=CC=C1)C1N(CCC2=CC=CC=C12)CC(=O)NCC1=C(C=CC=C1)Cl | C25H25ClN2O
